US05534644
83 g (1.024 moles) of sodium rhodanide are added to a solution of 155.5 g (1 mole) of 3,5-dichloro-2-pentanone in 1 liter of butyl acetate. The suspension is stirred for 4 hours in hot water bath. After cooling the sodium chloride formed is filtered off and the filtrate is washed 3 times with water and dried over sodium sulfate. After filtering off the drying agent the light red-brown filtrate is cooled under 10° C. by icy water and saturated with gaseous hydrochloric acid under stirring, keeping the temperature under 10° C. After saturation the reaction mixture is stirred for further 20 minutes under cooling, then the temperature is increased slowly to 40° C. The reaction mixture is stirred at this temperature for 20 minutes and poured onto ice after cooling down to room temperature. The phases are separated, the aqueous phase is shaken with 150 cm3 of butyl acetate. The combined butyl acetate solutions are washed neutral with water and 5% sodium hydrogen carbonate solution, then dried over sodium sulfate. After distilling off the solvent the residue is distilled off under reduced pressure to obtain 121 g (66%) of 2-chloro-4-methyl-5-(2-chloroethyl)-thiazole in the form of pale yellow oil, which is identical in every respect with the product obtained in Example 1.

reactant | sodium rhodanide | 1.024 moles, 83 g | C(#N)[S-].[Na+]
reactant | 3,5-dichloro-2-pentanone | 1 mole, 155.5 g | ClC(C(C)=O)CCCl | C5H8Cl2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | butyl acetate | 1 liter | C(C)(=O)OCCCC | C6H12O2
solvent | water | O | H2O
product | 2-chloro-4-methyl-5-(2-chloroethyl)-thiazole | 121 g, 66% | ClC=1SC(=C(N1)C)CCCl | C6H7Cl2NS
